US05563143
1-[3-(Cyclopentyloxy)-4-methoxy-phenyl]-1H-imidazo[4,5-c]pyridine
A solution of 2.05 g of 1-(3-hydroxy-4-methoxyphenyl)-1H-imidazo[4,5-c]pyridine, 2.5 g of cyclopentylbromide and 665 mg of NaH in 20 ml of DMF was stirred at room temperature overnight. The reaction was poured into water and extracted with ethyl acetate, dried to give 1.4 g of crude product. Recrystallization from CH2Cl2 gave 574 mg product. M.P.: 66°-68° C.

reactant | 1-(3-hydroxy-4-methoxyphenyl)-1H-imidazo[4,5-c]pyridine | 2.05 g | OC=1C=C(C=CC1OC)N1C=NC=2C=NC=CC21 | C13H11N3O2
reactant | cyclopentylbromide | 2.5 g | C1(CCCC1)Br | C5H9Br
reactant | NaH | 665 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-[3-(Cyclopentyloxy)-4-methoxy-phenyl]-1H-imidazo[4,5-c]pyridine | 574 mg | C1(CCCC1)OC=1C=C(C=CC1OC)N1C=NC=2C=NC=CC21 | C18H19N3O2
